US07115611B2
E] 2-{4-[4-Cyclopropyl-2-(3-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid
0.240 g (0.466 mmol) of the above prepared 2-{4-[4-cyclopropyl-2-(3-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester was dissolved in 2.8 ml of THF/EtOH=1/1, treated with 1.40 ml (3 eq.) of 1N NaOH and kept at ambient temperature for 7 h. The reaction mixture was then poured onto crashed ice/AcOEt/HCl dil., the aqueous phase extracted again with AcOEt; the combined organic layers were washed with water, dried over sodium sulfate, and evaporated to dryness. Recrystallisation from AcOEt/hexane afforded finally 0.196 g of the title compound as white solid of mp. 175–176° C.

reactant | 2-{4-[4-cyclopropyl-2-(3-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=NC1)C1=CC(=CC=C1)C(F)(F)F)C1CC1)C)=O | C28H29F3N2O4
reactant | NaOH | 1N, 1.40 ml, 3 eq. | [OH-].[Na+]
solvent | THF EtOH | 2.8 ml | C1CCOC1.CCO
product | 2-{4-[4-Cyclopropyl-2-(3-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid | 0.196 g | C1(CC1)C1=NC(=NC=C1COC1=CC(=C(OC(C(=O)O)(C)C)C=C1)C)C1=CC(=CC=C1)C(F)(F)F | C26H25F3N2O4
